US08633173B2
[8-(4-Methanesulfonyl-phenyl)-6-trifluoromethyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine was prepared from 8-(4-methanesulfonyl-phenyl)-6-trifluoromethyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine and 1-(4-bromo-phenyl)-4-methyl-piperazine in a manner analogous to Step 2d and was isolated as a yellow solid (21% yield). MP 126-134° C. 1H NMR (400 MHz, (CDCl3, δ, ppm): 8.82 (s, 1H), 8.25 (d, J=7.8 Hz, 2H), 8.13 (d, J=7.3 Hz, 2H), 7.79 (s, 1H), 7.49 (d, J=8.2 Hz, 2H), 6.99 (d, J=8.2 Hz, 2H), 6.88 (s, 1H), 3.21 (bm, 4H), 3.13 (s, 3H), 2.66 (bm, 4H), 2.40 (s, 3H). MS=531.0 (MH)+.

reactant | 8-(4-methanesulfonyl-phenyl)-6-trifluoromethyl-[1,2,4]triazolo[1,5-a]pyridin-2-ylamine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=C(C1)C(F)(F)F)N=C(N2)N | C14H11F3N4O2S
reactant | 1-(4-bromo-phenyl)-4-methyl-piperazine | BrC1=CC=C(C=C1)N1CCN(CC1)C | C11H15BrN2
product | [8-(4-Methanesulfonyl-phenyl)-6-trifluoromethyl-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-[4-(4-methyl-piperazin-1-yl)-phenyl]-amine | CS(=O)(=O)C1=CC=C(C=C1)C=1C=2N(C=C(C1)C(F)(F)F)N=C(N2)NC2=CC=C(C=C2)N2CCN(CC2)C | C25H25F3N6O2S
